US04680402
[2-(2-methyl-1-piperidinyl)-5-nitrophenyl]-(4-chlorophenyl)-methanone
Proceeding as indicated in example 2, from 0.035 mole (10.4 g) of 2,4'-dichloro-5-nitro-benzophenone, 0.07 mole (7 cm3) of 2-methylpiperidine and 0.035 mole (5 g) of calcium carbonate in ethanol, 5.1 g (Yield: 40%) of the expected product are obtained after recrystallization in ethanol. M.P. 142° C.

reactant | 2,4'-dichloro-5-nitro-benzophenone | 0.035 mole, 10.4 g | ClC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H7Cl2NO3
reactant | 2-methylpiperidine | 0.07 mole, 7 cm3 | CC1NCCCC1 | C6H13N
reactant | calcium carbonate | 0.035 mole, 5 g | C([O-])([O-])=O.[Ca+2]
solvent | ethanol | C(C)O | C2H6O
product | [2-(2-methyl-1-piperidinyl)-5-nitrophenyl]-(4-chlorophenyl)-methanone | 5.1 g, Yield: 40% | CC1N(CCCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)Cl | C19H19ClN2O3
